US07741341B2
7.84 g (14.52 mmol) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid methyl ester were dissolved in 400 mL MEOH. 72.59 mL (72.59 mmol) of a 1 M aqueous LiOH-solution were added and the resulting mixture was stirred for 7 h at 60° C. The solution was concentrated to a volume of approx. 200 mL and acidified by the addition of a 4 M aqueous HCl-solution until pH≈1 was reached. After 30 minutes the resulting precipitate was filtered off and washed several times with cold MeOH. Recrystallization from MEOH gave pure 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid in form of a colorless, crystalline solid. The title compound was obtained as its monohydrochloride.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | 14.52 mmol, 7.84 g | COC(=O)C1=CC2=C(N(C(=N2)C(NC2CCN(CC2)C2CC2)=O)CC2=NOC(=C2)C=2SC(=CC2)Cl)C=C1 | C26H26ClN5O4S
reactant | LiOH | 1 M | [Li+].[OH-]
product | 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=CC(=C2)C(=O)O)C(NC2CCN(CC2)C2CC2)=O | C25H24ClN5O4S
